US06352993B1
5-acetoxymethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine dihydrochloride
Acetylchloride (2.71 μ1, 39.6 μmol) and triethylamine (20 μl, 142.6 μmol) were added to a suspension of 5-hydroxymethyl-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluorophenylamino)pyrimidine (10 mg, 26.4 μmol) in dichloromethane(1 ml) and stirred for 1 day at a room temperature. The reaction mixture was purified by a silica gel column chromatography (ethylacetate/n-hexane=1/1) to give the titled compound.

reactant | Acetylchloride | 39.6 μmol | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 142.6 μmol, 20 μl | C(C)N(CC)CC | C6H15N
reactant | 5-hydroxymethyl-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluorophenylamino)pyrimidine | 26.4 μmol, 10 mg | OCC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-acetoxymethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine dihydrochloride | Cl.Cl.C(C)(=O)OCC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C24H25FN4O2.2ClH/c1-15-22(14-31-17(3)30)23(28-24(26-15)27-20-10-8-19(25)9-11-20)29-13-12-18-6-4-5-7-21(18)16(29)2;;/h4-11,16H,12-14H2,1-3H3,(H,26,27,28);2*1H
